US07115624B1
To a solution of 4-hydroxy-isobenzofuran-1,3-dione (195 mg, 1.2 mmol) in anhydrous N,N-dimethylformamide (4 ml) under nitrogen was added minutes and then methyl iodide (0.37 ml, 6.0 mmol) was added. The reaction was stirred for 48 h. and then quenched with saturated ammonium chloride. The mixture was concentrated in vacuo, diluted in ethyl acetate (20 ml) and the organic phase washed with 1N hydrochloric acid (5 ml) and brine (3×5 ml). The organic layer was dried (MgSO4) and concentrated in vacuo. To the crude solid was added methanol causing a precipitate to form. The flask was cooled in an ice bath for 2 h. and the solid filtered off, washed with methanol and dried in vacuo which afforded 0.1 g (47%) of 4-methoxy-isobenzofuran-1,3-dione as a solid.

reactant | 4-hydroxy-isobenzofuran-1,3-dione | 1.2 mmol, 195 mg | OC1=C2C(OC(C2=CC=C1)=O)=O | C8H4O4
reactant | methyl iodide | 6.0 mmol, 0.37 ml | CI | CH3I
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-isobenzofuran-1,3-dione | 0.1 g, 47% | COC1=C2C(OC(C2=CC=C1)=O)=O | C9H6O4
